US07498337B2
5-(2-fluorophenyl)-1-[(1-methyl-1H-pyrazol-4-yl)sulfonyl]-1H-pyrrole-3-carbaldehyde
By a similar operation as in Reference Example 65 and using 5-(2-fluorophenyl)-1H-pyrrole-3-carbaldehyde (189 mg) and 1-methyl-1H-pyrazole-4-sulfonyl chloride (217 mg), the title compound was obtained as yellow crystals (yield 217 mg, 65%).

reactant | 5-(2-fluorophenyl)-1H-pyrrole-3-carbaldehyde | 189 mg | FC1=C(C=CC=C1)C1=CC(=CN1)C=O | C11H8FNO
reactant | 1-methyl-1H-pyrazole-4-sulfonyl chloride | 217 mg | CN1N=CC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
product | 5-(2-fluorophenyl)-1-[(1-methyl-1H-pyrazol-4-yl)sulfonyl]-1H-pyrrole-3-carbaldehyde | FC1=C(C=CC=C1)C1=CC(=CN1S(=O)(=O)C=1C=NN(C1)C)C=O | C15H12FN3O3S
